US06903086B2
A mixture of 2-amino-5-bromo-benzonitrile (4.0 g, 0.0203 mole) in 55 mL of dioxane was treated with sodium carbonate (7.1 g) in 55 mL of water, phenyl boronic acid (2.72 g, 0.0223 mole), and tetrakistriphenylphosphine palladium (0) (0.235 g). the mixture was heated to 100° C. with stirring under an atmosphere of argon for 3 h., cooled to room temperature, poured into ethyl acetate, washed with 1M HCl, then brine, dried, evaporated and purified by chromatography to give 2.91 g of 4-amino-biphenyl-3-carbonitrile as a yellow solid.

reactant | 2-amino-5-bromo-benzonitrile | 0.0203 mole, 4.0 g | NC1=C(C#N)C=C(C=C1)Br | C7H5BrN2
reactant | sodium carbonate | 7.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | phenyl boronic acid | 0.0223 mole, 2.72 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 55 mL | O1CCOCC1 | C4H8O2
solvent | water | 55 mL | O | H2O
product | 4-amino-biphenyl-3-carbonitrile | 2.91 g | NC1=C(C=C(C=C1)C1=CC=CC=C1)C#N | C13H10N2
